US04931436
5,11-Dihydro-11-[[3-[2-(methylethylmethylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-(methylethylmethylamino)ethyl]piperidine in a yield of 38% of theory. Colourless crystals, m.p. 196°-198° C. (D.), Rf 0.21 (Merck DC ready made TLC plates, silica gel 60 F254 ; eluant: dichloromethane/methanol/conc. ammonia 90/10/1, v/v/v).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-(methylethylmethylamino)ethyl]piperidine | CCN(CCC1CNCCC1)CC | C11H24N2
solvent | dichloromethane methanol | ClCCl.CO
product | 5,11-Dihydro-11-[[3-[2-(methylethylmethylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 38% | Cl.CCN(CCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | InChI=1S/C24H31N5O2.ClH/c1-3-27(4-2)16-13-18-9-8-15-28(17-18)24(31)29-21-12-6-5-10-19(21)23(30)26-20-11-7-14-25-22(20)29;/h5-7,10-12,14,18H,3-4,8-9,13,15-17H2,1-2H3,(H,26,30);1H
